US07208513B2
B. 3-(6-Methoxy-2-naphthyl)-1H-indazole-5-carboxamide
A mixture of 3-(6-methoxy-2-naphthyl)-1H-indazole-5-carbonitrile (0.230 g, 0.77 mmol), 95% ethanol (6 mL), aqueous 30% hydrogen peroxide (3 mL), and 6.0 N aqueous sodium hydroxide (1 mL, mmol) was heated at 45° C. for 3 h. The reaction mixture was diluted with water (30 mL) and acidified to pH 6 with 3 N hydrochloric acid. The solid was filtered and dried in a vacuum oven to give product (0.050 g, 20% yield): 1H NMR (DMSO-d6) δ 13.45 (s, 1H), 8.72 (s, 1H), 8.50 (s, 1H), 8.18 (s, 1H), 8.15 (d, 1H), 8.02 (d, 1H), 7.95 (d, 1H), 7.61 (d, 1H), 7.37 (m, 2H), 7.22 (dd, 1H); ES-MS (m/z) 318 [M+1]+.

reactant | 3-(6-methoxy-2-naphthyl)-1H-indazole-5-carbonitrile | 0.77 mmol, 0.230 g | COC=1C=C2C=CC(=CC2=CC1)C1=NNC2=CC=C(C=C12)C#N | C19H13N3O
reactant | hydrogen peroxide | 3 mL | OO | H2O2
reactant | sodium hydroxide | 6.0 N, 1 mL | [OH-].[Na+]
reactant | hydrochloric acid | 3 N | Cl | ClH
solvent | water | 30 mL | O | H2O
solvent | ethanol | 6 mL | C(C)O | C2H6O
product | 3-(6-Methoxy-2-naphthyl)-1H-indazole-5-carboxamide | 0.050 g, 20% yield | COC=1C=C2C=CC(=CC2=CC1)C1=NNC2=CC=C(C=C12)C(=O)N | C19H15N3O2
